subckt OPAMP1 inn inp out pd xpd vdda vssa 
	xd1 (vssa vdda) prim_nwd AREA=6.13907e-9 PJ=476.6e-6 m=1
	xi0 (vssa net69) prim_nd AREA=1e-12 PJ=4e-6 m=1
	xi3 (net51 vdda) prim_pd AREA=790e-15 PJ=3.3e-6 m=1
	xr0 (vssa vdda net51) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xr1 (vdda vdda net69) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xcc01 (net12 out) prim_cpoly c=1p m=1
	mnm12 (net13 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnm11 (net56 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnb02 (net27 net27 net21 vssa) nmos1 l=180n w=1u m=1
	mnpd1 (net21 xpd vssa vssa) nmos1 l=180n w=1u m=1
	mn001 (out net13 vssa vssa) nmos1 l=180n w=1u m=1
	mnpd2 (net13 pd vssa vssa) nmos1 l=180n w=1u m=1
	mnc01 (net13 net69 net12 vssa) nmos1 l=180n w=1u m=1
	mpb02 (net27 net51 net158 vdda) pmos1 l=180n w=1u m=1
	mppd1 (net158 xpd vdda vdda) pmos1 l=180n w=1u m=1
	mps11 (net31 net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd11 (net56 inn net31 net31) pmos1 l=180n w=1u m=1
	mp001 (out net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd12 (net13 inp net31 net31) pmos1 l=180n w=1u m=1
	mpb01 (net158 net158 vdda vdda) pmos1 l=180n w=1u m=1
ends OPAMP1
