subckt OPAMP1_variant1 inn inp out pd xpd vdda vssa
	xd1 (vssa vdda) prim_nwd AREA=6.13907e-9 PJ=476.6e-6 m=1
	xi0 (vssa net69) prim_nd AREA=1e-12 PJ=4e-6 m=1
	xi3 (net51 vdda) prim_pd AREA=790e-15 PJ=3.3e-6 m=1
	xr0 (vssa vdda net51) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xr1 (vdda vdda net69) prim_rdiffp l=2.5e-07 w=700e-9 m=1
	xcc01 (net12 out) prim_cpoly c=1p m=1
	mnm12 (net13 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnm11 (net56 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnb02 (net27 net27 net21 vssa) nmos1 l=180n w=1u m=1
	mnpd1 (net21 xpd vssa vssa) nmos1 l=180n w=1u m=1
	mn001 (out net13 vssa vssa) nmos1 l=180n w=1u m=1
	mnpd2 (net13 pd vssa vssa) nmos1 l=180n w=1u m=1
	mnc01 (net13 net69 net12 vssa) nmos1 l=180n w=1u m=1
	mpb02 (net27 net51 net158 vdda) pmos1 l=180n w=1u m=1
	mppd1 (net158 xpd vdda vdda) pmos1 l=180n w=1u m=1
	mps11 (net31 net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd11 (net56 inn net31 net31) pmos1 l=180n w=1u m=1
	mp001 (out net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd12 (net13 inp net31 net31) pmos1 l=180n w=1u m=1
	mpb01 (net158 net158 vdda vdda) pmos1 l=180n w=1u m=1
ends OPAMP1_variant1

subckt OPAMP1_variant2 inn inp out pd xpd vdda vssa
	xd1 (vssa vdda) prim_nwd AREA=6.13907e-9 PJ=476.6e-6 m=1
	xi0 (vssa net69) prim_nd AREA=1e-12 PJ=4e-6 m=1
	xi3 (net51 vdda) prim_pd AREA=790e-15 PJ=3.3e-6 m=1
	xr0 (vssa vdda net51) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xr1 (vdda vdda net69) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xcc01 (net12 out) prim_cpoly c=1p m=1
	mnm12 (net13 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnm11 (net56 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnb02 (net27 net27 net21 vssa) nmos1 l=180n w=1u m=1
	mnpd1 (net21 xpd vssa vssa) nmos1 l=180n w=1u m=1
	mn001 (out net13 vssa vssa) nmos1 l=180n w=1u m=1
	mnpd2 (net13 pd vssa vssa) nmos1 l=180n w=1u m=1
	mnc01 (net13 net69 net12 vssa) nmos1 l=180n w=1u m=1
	mpb02 (net27 net51 net158 vdda) pmos1 l=180n w=1u m=1
	mppd1 (net158 xpd vdda vdda) pmos1 l=180n w=1u m=1
	mps11 (net31 net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd11 (net56 inn net31 net31) pmos1 l=180n w=1u m=1
	mp001 (out net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd12 (net13 inp net31 net31) pmos1 l=180n w=1u m=1
	mpb01 (net158 net158 vdda vdda) pmos1 l=1.8e-07n w=1u m=1
ends OPAMP1_variant2

subckt OPAMP1_variant3 inn inp out pd xpd vdda vssa
	xd1 (vssa vdda) prim_nwd AREA=6.13907e-9 PJ=476.6e-6 m=1
	xi0 (vssa net69) prim_nd AREA=1e-12 PJ=4e-6 m=1
	xi3 (net51 vdda) prim_pd AREA=790e-15 PJ=3.3e-6 m=1
	xr0 (vssa vdda net51) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xr1 (vdda vdda net69) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xcc01 (net12 out) prim_cpoly c=1p m=1
	mnm12 (net13 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnm11 (net56 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnb02 (net27 net27 net21 vssa) nmos1 l=180n w=1u m=1
	mnpd1 (net21 xpd vssa vssa) nmos1 l=180n w=1u m=1
	mn001 (out net13 vssa vssa) nmos1 l=180n w=1u m=1
	mnpd2 (net13 pd vssa vssa) nmos1 l=180n w=1u m=1
	mnc01 (net13 net69 net12 vssa) nmos1 l=2.4e-07n w=1u m=1
	mpb02 (net27 net51 net158 vdda) pmos1 l=180n w=1u m=1
	mppd1 (net158 xpd vdda vdda) pmos1 l=180n w=1u m=1
	mps11 (net31 net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd11 (net56 inn net31 net31) pmos1 l=180n w=1u m=1
	mp001 (out net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd12 (net13 inp net31 net31) pmos1 l=180n w=1u m=1
	mpb01 (net158 net158 vdda vdda) pmos1 l=180n w=1u m=1
ends OPAMP1_variant3

subckt OPAMP1_variant4 inn inp out pd xpd vdda vssa
	xd1 (vssa vdda) prim_nwd AREA=6.13907e-9 PJ=476.6e-6 m=1
	xi0 (vssa net69) prim_nd AREA=1e-12 PJ=4e-6 m=1
	xi3 (net51 vdda) prim_pd AREA=790e-15 PJ=3.3e-6 m=1
	xr0 (vssa vdda net51) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xr1 (vdda vdda net69) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xcc01 (net12 out) prim_cpoly c=1p m=1
	mnm12 (net13 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnm11 (net56 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnb02 (net27 net27 net21 vssa) nmos1 l=180n w=1u m=1
	mnpd1 (net21 xpd vssa vssa) nmos1 l=180n w=1u m=1
	mn001 (out net13 vssa vssa) nmos1 l=180n w=1u m=1
	mnpd2 (net13 pd vssa vssa) nmos1 l=180n w=1u m=1
	mnc01 (net13 net69 net12 vssa) nmos1 l=180n w=1u m=1
	mpb02 (net27 net51 net158 vdda) pmos1 l=180n w=1u m=1
	mppd1 (net158 xpd vdda vdda) pmos1 l=2.8e-07n w=1u m=1
	mps11 (net31 net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd11 (net56 inn net31 net31) pmos1 l=180n w=1u m=1
	mp001 (out net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd12 (net13 inp net31 net31) pmos1 l=180n w=1u m=1
	mpb01 (net158 net158 vdda vdda) pmos1 l=180n w=1u m=1
ends OPAMP1_variant4

subckt OPAMP1_variant5 inn inp out pd xpd vdda vssa
	xd1 (vssa vdda) prim_nwd AREA=6.13907e-9 PJ=476.6e-6 m=1
	xi0 (vssa net69) prim_nd AREA=1e-12 PJ=4e-6 m=1
	xi3 (net51 vdda) prim_pd AREA=790e-15 PJ=3.3e-6 m=1
	xr0 (vssa vdda net51) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xr1 (vdda vdda net69) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xcc01 (net12 out) prim_cpoly c=9.3e-13p m=1
	mnm12 (net13 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnm11 (net56 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnb02 (net27 net27 net21 vssa) nmos1 l=180n w=1u m=1
	mnpd1 (net21 xpd vssa vssa) nmos1 l=180n w=1u m=1
	mn001 (out net13 vssa vssa) nmos1 l=180n w=1u m=1
	mnpd2 (net13 pd vssa vssa) nmos1 l=180n w=1u m=1
	mnc01 (net13 net69 net12 vssa) nmos1 l=180n w=1u m=1
	mpb02 (net27 net51 net158 vdda) pmos1 l=180n w=1u m=1
	mppd1 (net158 xpd vdda vdda) pmos1 l=180n w=1u m=1
	mps11 (net31 net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd11 (net56 inn net31 net31) pmos1 l=180n w=1u m=1
	mp001 (out net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd12 (net13 inp net31 net31) pmos1 l=180n w=1u m=1
	mpb01 (net158 net158 vdda vdda) pmos1 l=180n w=1u m=1
ends OPAMP1_variant5

subckt OPAMP1_variant6 inn inp out pd xpd vdda vssa
	xd1 (vssa vdda) prim_nwd AREA=6.13907e-9 PJ=476.6e-6 m=1
	xi0 (vssa net69) prim_nd AREA=5.8e-09 PJ=4e-6 m=1
	xi3 (net51 vdda) prim_pd AREA=790e-15 PJ=3.3e-6 m=1
	xr0 (vssa vdda net51) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xr1 (vdda vdda net69) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xcc01 (net12 out) prim_cpoly c=1p m=1
	mnm12 (net13 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnm11 (net56 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnb02 (net27 net27 net21 vssa) nmos1 l=180n w=1u m=1
	mnpd1 (net21 xpd vssa vssa) nmos1 l=180n w=1u m=1
	mn001 (out net13 vssa vssa) nmos1 l=180n w=1u m=1
	mnpd2 (net13 pd vssa vssa) nmos1 l=180n w=1u m=1
	mnc01 (net13 net69 net12 vssa) nmos1 l=180n w=1u m=1
	mpb02 (net27 net51 net158 vdda) pmos1 l=180n w=1u m=1
	mppd1 (net158 xpd vdda vdda) pmos1 l=180n w=1u m=1
	mps11 (net31 net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd11 (net56 inn net31 net31) pmos1 l=180n w=1u m=1
	mp001 (out net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd12 (net13 inp net31 net31) pmos1 l=180n w=1u m=1
	mpb01 (net158 net158 vdda vdda) pmos1 l=180n w=1u m=1
ends OPAMP1_variant6

subckt OPAMP1_variant7 inn inp out pd xpd vdda vssa
	xd1 (vssa vdda) prim_nwd AREA=6.13907e-9 PJ=476.6e-6 m=1
	xi0 (vssa net69) prim_nd AREA=1e-12 PJ=4e-6 m=1
	xi3 (net51 vdda) prim_pd AREA=790e-15 PJ=3.3e-6 m=1
	xr0 (vssa vdda net51) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xr1 (vdda vdda net69) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xcc01 (net12 out) prim_cpoly c=1p m=1
	mnm12 (net13 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnm11 (net56 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnb02 (net27 net27 net21 vssa) nmos1 l=180n w=1u m=1
	mnpd1 (net21 xpd vssa vssa) nmos1 l=180n w=1u m=1
	mn001 (out net13 vssa vssa) nmos1 l=180n w=1u m=1
	mnpd2 (net13 pd vssa vssa) nmos1 l=180n w=1u m=1
	mnc01 (net13 net69 net12 vssa) nmos1 l=180n w=1u m=1
	mpb02 (net27 net51 net158 vdda) pmos1 l=180n w=1u m=1
	mppd1 (net158 xpd vdda vdda) pmos1 l=180n w=1u m=1
	mps11 (net31 net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd11 (net56 inn net31 net31) pmos1 l=2.2e-07n w=1u m=1
	mp001 (out net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd12 (net13 inp net31 net31) pmos1 l=180n w=1u m=1
	mpb01 (net158 net158 vdda vdda) pmos1 l=180n w=1u m=1
ends OPAMP1_variant7

subckt OPAMP1_variant8 inn inp out pd xpd vdda vssa
	xd1 (vssa vdda) prim_nwd AREA=6.13907e-9 PJ=476.6e-6 m=1
	xi0 (vssa net69) prim_nd AREA=1e-12 PJ=4e-6 m=1
	xi3 (net51 vdda) prim_pd AREA=790e-15 PJ=3.3e-6 m=1
	xr0 (vssa vdda net51) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xr1 (vdda vdda net69) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xcc01 (net12 out) prim_cpoly c=1p m=1
	mnm12 (net13 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnm11 (net56 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnb02 (net27 net27 net21 vssa) nmos1 l=180n w=1u m=1
	mnpd1 (net21 xpd vssa vssa) nmos1 l=180n w=1u m=1
	mn001 (out net13 vssa vssa) nmos1 l=180n w=1u m=1
	mnpd2 (net13 pd vssa vssa) nmos1 l=180n w=1u m=1
	mnc01 (net13 net69 net12 vssa) nmos1 l=180n w=1u m=1
	mpb02 (net27 net51 net158 vdda) pmos1 l=2.7e-07n w=1u m=1
	mppd1 (net158 xpd vdda vdda) pmos1 l=180n w=1u m=1
	mps11 (net31 net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd11 (net56 inn net31 net31) pmos1 l=180n w=1u m=1
	mp001 (out net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd12 (net13 inp net31 net31) pmos1 l=180n w=1u m=1
	mpb01 (net158 net158 vdda vdda) pmos1 l=180n w=1u m=1
ends OPAMP1_variant8

subckt OPAMP1_variant9 inn inp out pd xpd vdda vssa
	xd1 (vssa vdda) prim_nwd AREA=6.13907e-9 PJ=476.6e-6 m=1
	xi0 (vssa net69) prim_nd AREA=1.0e-09 PJ=4e-6 m=1
	xi3 (net51 vdda) prim_pd AREA=790e-15 PJ=3.3e-6 m=1
	xr0 (vssa vdda net51) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xr1 (vdda vdda net69) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xcc01 (net12 out) prim_cpoly c=1p m=1
	mnm12 (net13 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnm11 (net56 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnb02 (net27 net27 net21 vssa) nmos1 l=180n w=1u m=1
	mnpd1 (net21 xpd vssa vssa) nmos1 l=180n w=1u m=1
	mn001 (out net13 vssa vssa) nmos1 l=180n w=1u m=1
	mnpd2 (net13 pd vssa vssa) nmos1 l=180n w=1u m=1
	mnc01 (net13 net69 net12 vssa) nmos1 l=180n w=1u m=1
	mpb02 (net27 net51 net158 vdda) pmos1 l=180n w=1u m=1
	mppd1 (net158 xpd vdda vdda) pmos1 l=180n w=1u m=1
	mps11 (net31 net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd11 (net56 inn net31 net31) pmos1 l=180n w=1u m=1
	mp001 (out net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd12 (net13 inp net31 net31) pmos1 l=180n w=1u m=1
	mpb01 (net158 net158 vdda vdda) pmos1 l=180n w=1u m=1
ends OPAMP1_variant9

subckt OPAMP1_variant10 inn inp out pd xpd vdda vssa
	xd1 (vssa vdda) prim_nwd AREA=6.13907e-9 PJ=476.6e-6 m=1
	xi0 (vssa net69) prim_nd AREA=1e-12 PJ=4e-6 m=1
	xi3 (net51 vdda) prim_pd AREA=790e-15 PJ=3.3e-6 m=1
	xr0 (vssa vdda net51) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xr1 (vdda vdda net69) prim_rdiffp l=2.1e-6 w=700e-9 m=1
	xcc01 (net12 out) prim_cpoly c=1p m=1
	mnm12 (net13 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnm11 (net56 net56 vssa vssa) nmos1 l=180n w=1u m=1
	mnb02 (net27 net27 net21 vssa) nmos1 l=180n w=1u m=1
	mnpd1 (net21 xpd vssa vssa) nmos1 l=180n w=1u m=1
	mn001 (out net13 vssa vssa) nmos1 l=2.8e-07n w=1u m=1
	mnpd2 (net13 pd vssa vssa) nmos1 l=180n w=1u m=1
	mnc01 (net13 net69 net12 vssa) nmos1 l=180n w=1u m=1
	mpb02 (net27 net51 net158 vdda) pmos1 l=180n w=1u m=1
	mppd1 (net158 xpd vdda vdda) pmos1 l=180n w=1u m=1
	mps11 (net31 net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd11 (net56 inn net31 net31) pmos1 l=180n w=1u m=1
	mp001 (out net158 vdda vdda) pmos1 l=180n w=1u m=1
	mpd12 (net13 inp net31 net31) pmos1 l=180n w=1u m=1
	mpb01 (net158 net158 vdda vdda) pmos1 l=180n w=1u m=1
ends OPAMP1_variant10